US04107175
B. n-methyl-N-[5-(trifluoromethyl)-1,3-benzodithiol-2-ylidene]-benzenaminiumiodide
A solution of N-[5-(trifluoromethyl)-1,3-benzodithiol-2-ylidene]benzenamine (2.4 g) and methyl iodide (20 ml, excess) in 100 ml of benzene is heated at reflux for 2.5 weeks. The reaction mixture is filtered and recharged with methyl iodide every three days. The combined precipitates (3.3g) are recrystallized from acetonitrile/benzene. The recrystallized product is dried in vacuo at 100° C for three days to yield 3.0g of the title compound, melting point 161°-164° C.

reactant | N-[5-(trifluoromethyl)-1,3-benzodithiol-2-ylidene]benzenamine | 2.4 g | FC(C1=CC2=C(SC(S2)=NC2=CC=CC=C2)C=C1)(F)F | C14H8F3NS2
reactant | methyl iodide | 20 ml | CI | CH3I
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | n-methyl-N-[5-(trifluoromethyl)-1,3-benzodithiol-2-ylidene]-benzenaminiumiodide | 3.0g | [I-].C[N+](C1=CC=CC=C1)=C1SC2=C(S1)C=CC(=C2)C(F)(F)F | InChI=1S/C15H11F3NS2.HI/c1-19(11-5-3-2-4-6-11)14-20-12-8-7-10(15(16,17)18)9-13(12)21-14;/h2-9H,1H3;1H/q+1;/p-1
